*****************************************************************
* NXP BUK9K89-100E
*
* Polarity N-Channel
* Ratings 100V/8.900000E-002OHMS/12.5A
*
* Date Created Thu Jul 05 00:40:34 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K89-100E DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0629540193876756 TC=0.00566053696154197,3.48299834178765E-05
RBD 9 4 0.0043679665027823 TC=0.00566053696154197,3.48299834178765E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 7.72e-10
RG 1 2 2.67663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -15	904.573
+ -12	903.255
+ -10	901.857
+ -8	899.753
+ -6	896.401
+ -5	893.628
+ -4	889.252
+ -3	877.751
+ -2	785.135
+ -1	536.584
+ -0.5	405.692
+ -0.2	313.436
+ -0.1	310.836
+ 0	241.48146
+ 0.1	191.716
+ 0.2	193.14452
+ 0.5	166.84604
+ 1	145.11496
+ 2	117.75736
+ 3	107.90888
+ 4	100.44096
+ 5	94.1821
+ 6	89.28794
+ 8	82.16212
+ 10	77.07169
+ 12	73.12683
+ 15	68.51763
+ 20	62.89236
+ 25	58.72944



.MODEL MINT NMOS(Vto=2.05449960748433 Kp=4.239019e+001 Nfs=570000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=6.02839031652256e-13
+ N=1 M=0.68 VJ=0.99 Fc=0.5 Cjo=1.644692e-10 Tt=2.99e-08)

.ENDS
